US04052511
1-(4-Methoxycarbonyl-2-methylbutanoyl)-L-proline
1-(4-Methoxycarbonyl-2-methylbutanoyl)-L-proline tert.-butyl ester (3.4 g.) is dissolved in trifluoroacetic acid (25 ml.) and the solution kept at room temperature for one hour. The trifluoroacetic acid is removed in vacuo and the residue is reprecipitated from ethyl-hexane several times. The residue is dissolved in acetonitrile (12 ml.) and 2 ml. of dicyclohexylamine is added. The crystalline salt is isolated by filtration and recrystallized from acetonitrile to yield 18 g. of 1-(4-methoxycarbonyl-2-D-methylbutanoyl)-L-proline dicyclohexylamine salt, m.p. 174°-175°. From the mother liquors the 1-(4-methoxycarbonyl-2-L-methylbutanoyl)-L-proline isomer is also separated as the dicyclohexylamine salt. The salts are converted to the acids by treatment with Dowex 50.

reactant | 1-(4-Methoxycarbonyl-2-methylbutanoyl)-L-proline tert.-butyl ester | 3.4 g | C(C)(C)(C)OC([C@H]1N(CCC1)C(C(CCC(=O)OC)C)=O)=O | C16H27NO5
solvent | trifluoroacetic acid | 25 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 1-(4-Methoxycarbonyl-2-methylbutanoyl)-L-proline | COC(=O)CCC(C(=O)N1[C@H](C(=O)O)CCC1)C | C12H19NO5
